US07253196B2
1-Bromocyclopentanecarboxylic acid
Phosphorus trichloride (0.54 mL, 6.20 mmol) was added drop-wise to the mixture of cyclopentanecarboxylic acid (14.2 g, 124 mmol) and bromine (7.35 mL, 143 mmol). The mixture was then gradually heated to 85° C. and stirred at this temperature in a sealed vessel for 12 h. After cooling to ambient temperature, the mixture was partitioned between EtOAc and water. The organic portion was separated, washed with water and brine, and conc. in vacuo to give the title compound as a white solid.

reactant | Phosphorus trichloride | 6.20 mmol, 0.54 mL | P(Cl)(Cl)Cl | Cl3P
reactant | cyclopentanecarboxylic acid | 124 mmol, 14.2 g | C1(CCCC1)C(=O)O | C6H10O2
reactant | bromine | 143 mmol, 7.35 mL | BrBr | Br2
product | 1-Bromocyclopentanecarboxylic acid | BrC1(CCCC1)C(=O)O | C6H9BrO2
